US04614538
Into a 1 liter three-neck flask was introduced 40 g (0.19 mole) of 3-amino-2,5-dichlorobenzoic acid and 150 ml of tetrahydrofuran. The solution was cooled to 8°-10° C. in an ice bath. A borontrifluoride-tetrahydrofuran (1M) solution (280 ml) was added dropwise over a period of 1 hr. After being stirred at 8° C. for an additional 1 hr. the solution was allowed to warm up slowly to room temperature. The reaction flask was then cooled again in an ice bath and 50 ml of water was added through a dropping funnel. The mixture was taken into 1 liter of methylene chloride and washed once with NaHCO3 and twice with water, then dried over calcium sulfate. The methylene chloride solution afforded 19.2 g of crude solid product, mp 111-121. Five grams of the crude solid was recrystallized from acetonitrile to yield 4.2 g of 3-amino-2,5-dichlorobenzyl alcohol; mp 121-127; nmr (DMSO-d6) δ 4.50 (D, 2H), 5.34 (t, 1H), 5.52 (S, 2H), 6.73 (S, 2H); ir (CHCl3) 3490, 3380, 3240, 1630 and 1598 Cm-1.

reactant | 3-amino-2,5-dichlorobenzoic acid | 0.19 mole, 40 g | NC=1C(=C(C(=O)O)C=C(C1)Cl)Cl | C7H5Cl2NO2
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | borontrifluoride tetrahydrofuran | 1M | B(F)(F)F.O1CCCC1
reactant | water | 50 ml | O | H2O
solvent | methylene chloride | 1 liter | C(Cl)Cl | CH2Cl2
product | 3-amino-2,5-dichlorobenzyl alcohol | 4.2 g | NC=1C(=C(CO)C=C(C1)Cl)Cl | C7H7Cl2NO
